US07091214B2
A modification of the method described in Part C of Examples 125–135 was used to treat 7-bromo-N4-(4-chlorobutyl)quinoline-3,4-diamine (7.25 g, 22.1 mmol) with ethoxyacetyl chloride (2.76 mL, 24.3 mmol). After the reaction was stirred for one hour, it was concentrated under reduced pressure to provide N-[7-bromo-4-(4-chlorobutylamino)quinolin-3-yl]-2-ethoxyacetamide hydrochloride as a yellow solid.

reactant | 7-bromo-N4-(4-chlorobutyl)quinoline-3,4-diamine | 22.1 mmol, 7.25 g | BrC1=CC=C2C(=C(C=NC2=C1)N)NCCCCCl | C13H15BrClN3
reactant | ethoxyacetyl chloride | 24.3 mmol, 2.76 mL | C(C)OCC(=O)Cl | C4H7ClO2
product | N-[7-bromo-4-(4-chlorobutylamino)quinolin-3-yl]-2-ethoxyacetamide hydrochloride | Cl.BrC1=CC=C2C(=C(C=NC2=C1)NC(COCC)=O)NCCCCCl | InChI=1S/C17H21BrClN3O2.ClH/c1-2-24-11-16(23)22-15-10-21-14-9-12(18)5-6-13(14)17(15)20-8-4-3-7-19;/h5-6,9-10H,2-4,7-8,11H2,1H3,(H,20,21)(H,22,23);1H
